US05589473
To a solution of 42.0 g of (RS)-3,4-dihydroxy-6-methoxy-7-methyl-1,3-dihydro-isobenzofuran-1-one in 1 l of N,N-dimethylformamide were added 23.0 g of 1,1,3,3-tetramethylguanidine. The solution was stirred for 30 min and then, 48.4 g of allyl bromide were added and stirring was continued for 3 h. The mixture was evaporated in vacuo and the residue was dissolved in 0.7 l of ethyl acetate. The solution was washed with brine, dried over sodium sulfate, and the solvent was evaporated in vacuo. The solid residue was crystallized from tert-butyl methyl ether to give 37.3 g of 2-formyl-3-hydroxy-5-methoxy-6-methylbenzoic acid allyl ester as white crystals of m.p. 73°-74° C.

reactant | (RS)-3,4-dihydroxy-6-methoxy-7-methyl-1,3-dihydro-isobenzofuran-1-one | 42.0 g | OC1OC(C2=C(C(=CC(=C12)O)OC)C)=O | C10H10O5
reactant | 1,1,3,3-tetramethylguanidine | 23.0 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | allyl bromide | 48.4 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 2-formyl-3-hydroxy-5-methoxy-6-methylbenzoic acid allyl ester | 37.3 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O)C=O)=O | C13H14O5
